** Example S--parameters of a Tschebyschef Low Pass filter
C1 in 0 33.2p
L1 in 2 99.2n
C2 2 0 57.2p
L2 2 out 99.2n
C3 out 0 33.2p

V1 in 0 dc 0 ac 1 portnum 1 z0 50
V2 out 0 dc 0 ac 0 portnum 2 z0 50

.sp lin 100 2.5MEG 250MEG ; use for Tschebyschef 

.control
run
let S11db = db(s_1_1)
let S12db = db(s_1_2)
let S21db = db(s_2_1)
let S22db = db(s_2_2)
settype decibel S11db S21db S22db S12db

let P11=180*ph(s_1_1)/pi
let P21=180*ph(s_2_1)/pi
let P22=180*ph(S_2_2)/pi
let P12=180*ph(S_1_2)/pi
settype phase P11 P21 P22 P12
set xbrushwidth=2
plot s11db s21db S22db S12db ylimit -0.5 0 ; used with Tschebyschef  
plot P11 P21 P22 P12
plot smithgrid S_1_1 S_1_2
quit
.endc

.end
